US05550131
(S)-4-(N-Benzyloxycarbonyl-O-Methyl-L-Tyrosyl)-3-Me-thoxycarbonylmethyl-2-Oxo-Piperazine-1-Acetic Acid Dimethylaminocarbonylmethyl Ester.
In 7.39 ml of N,N-dimethylformamide were dissolved 2.0 g of (S)-4-(N-benzyloxycarbonyl-O-methyl-L-tyrosyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid, 83,0 mg of sodium iodide and 563 μl of N,N-dimethylaminocarbonylmethyl chloride. To the solution was added 772 μl of triethylamine while stirring at room temperature. The mixture was stirred for 6 hours, to which was then added water. The mixture was shaken with ethyl acetate for extraction. The organic layer was concentrated under reduced pressure. The residue was purified by means of a silica gel chromatography (methylene chloride/methanol =13/1) to give 1.57 g (68.0%) of the title compound as a colorless oily product.

reactant | (S)-4-(N-benzyloxycarbonyl-O-methyl-L-tyrosyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CC(=O)OC | C27H31N3O9
reactant | sodium iodide | 83,0 mg | [I-].[Na+]
reactant | N,N-dimethylaminocarbonylmethyl chloride | 563 μl | CN(C)C(=O)CCl | C4H8ClNO
reactant | triethylamine | 772 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7.39 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-4-(N-Benzyloxycarbonyl-O-Methyl-L-Tyrosyl)-3-Me-thoxycarbonylmethyl-2-Oxo-Piperazine-1-Acetic Acid Dimethylaminocarbonylmethyl Ester | 1.57 g, 68.0% | CN(C(=O)COC(CN1C([C@@H](N(CC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O)CC(=O)OC)=O)=O)C | C31H38N4O10
